US08859777B2
Preparation of N-{3-[4-Fluoro-1-(2-phenoxyethyl)piperidin-4-yl]phenyl}-4-methyl-benzenesulfonamide Hydrochloride
To a suspension of 4-(3-aminophenyl)-1-(2-phenoxyethyl) 4-fluoropiperidine dihydrochloride (100 mg, 0.26 mmol) in methylene chloride (5 mL) was added diisopropylethylamine (118 mg, 0.91 mmol) and the mixture stirred at room temperature until a clear solution resulted. This solution was then cooled to 0° C. and 4-methyl-benzenesulfonyl chloride (58 mg, 0.28 mmol) was then added and the reaction stirred at 0° C. for 1 hour then room temperature for 3 hours. After this time the mixture was quenched by the addition of 25% ammonium chloride solution (10 mL). The organic layer was separated and the aqueous extracted with ethyl acetate (2×10 mL). The combined extracts were dried over magnesium sulfate and filtered and concentrated. The residue was re-dissolved in ethyl acetate (20 mL), washed with water (2×10 mL) and brine (10 mL), dried over magnesium sulfate and filtered. The filtrate was concentrated to a viscous yellow oil which was treated with 10% methanolic hydrogen chloride (10 mL) and re-concentrated. The residue was triturated with ethyl acetate (5 mL) and then dried under high vacuum to afford a 49% yield of the title compound as a light yellow solid.

reactant | 4-(3-aminophenyl)-1-(2-phenoxyethyl) 4-fluoropiperidine dihydrochloride | 0.26 mmol, 100 mg | Cl.Cl.NC=1C=C(C=CC1)C1(CCN(CC1)CCOC1=CC=CC=C1)F
reactant | diisopropylethylamine | 0.91 mmol, 118 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-methyl-benzenesulfonyl chloride | 0.28 mmol, 58 mg | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[4-Fluoro-1-(2-phenoxyethyl)piperidin-4-yl]phenyl}-4-methyl-benzenesulfonamide Hydrochloride | 49% yield | Cl.FC1(CCN(CC1)CCOC1=CC=CC=C1)C=1C=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C26H29FN2O3S.ClH/c1-21-10-12-25(13-11-21)33(30,31)28-23-7-5-6-22(20-23)26(27)14-16-29(17-15-26)18-19-32-24-8-3-2-4-9-24;/h2-13,20,28H,14-19H2,1H3;1H
